*****< スルーレート計算用の振幅を算出するテストベンチ >*****
.lib SR1

*****< Parameters >*****
.param half='psvoltage/2'
.param valr1=10k
.param valr2=10k
.param vstart = 0.01
.param vstop = half
.param vincr = 0.01
.param gain=2

*****< Power_Supply >*****
VDD	vdd gnd	half
VSS	gnd vss	half

******< Input >******
VIN in1 gnd dc 0
E1  gnd in2 in1 gnd 1

******< Circuit Topology >******
* For rise edge slewrate
X1a inm1 in1 out1 vdd vss opamp
R1a inm1 gnd valr1
R2a inm1 out1 valr2

* For fall edge slewrate
X1b inm2 in2 out2 vdd vss opamp
R1b inm2 gnd valr1
R2b inm2 out2 valr2

* Offset voltage
X1c inm3 gnd os vdd vss opamp
R1c inm3 gnd valr1
R2c inm3 os  valr2

******< Control >******
.dc vin vstart vstop vincr
.print par"abs(v(out1,os)-v(in1)*gain)/v(in1)" par"abs(v(out2,os)-v(in2)*gain)/v(in2)"
* .print v(in1) v(out1) v(out2)

.endl
